US07763639B2
1-BROMO-2-FLUORO-3-[(TRIFLUOROMETHYL)THIO]BENZENE
1-bromo-3-[(3-bromo-2-fluorophenyl)dithio]-2-fluorobenzene (1.23 g, 2.98 mmol) was dissolved in dry tetrahydrofuran (40 ml) and trifluoromethyltrimethylsilane (2M in THF) was added under nitrogen atmosphere. The solution was cooled to −10° C. and tris(dimethylamino)sulfur(trimethylsilyl)difluoride (3 ml, 6.0 mmol) was added in portions. The mixture was warmed to room temperature and stirred for 12 h. Water (50 ml) and ethyl acetate (50 ml) was added and the phases were separated. The aqueous phase was extracted with ethyl acetate (2×50 ml) and the combined organic phases was dried (MgSO4) and evaporated under reduced pressure to give an oil. The residue was purified by flash column chromatography (isooctane/ethyl acetate, 1:1) to give the title compound (0.45 g). MS m/z (rel. intensity, 70 eV) 276 (M+, 62), 274 (M+, 58), 207 (35), 205 (31), 126 (bp).

reactant | 1-bromo-3-[(3-bromo-2-fluorophenyl)dithio]-2-fluorobenzene | 2.98 mmol, 1.23 g | BrC1=C(C(=CC=C1)SSC1=C(C(=CC=C1)Br)F)F | C12H6Br2F2S2
reactant | trifluoromethyltrimethylsilane | 2M | FC(F)(F)[Si](C)(C)C | C4H9F3Si
reactant | Water | 50 ml | O | H2O
reactant | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-BROMO-2-FLUORO-3-[(TRIFLUOROMETHYL)THIO]BENZENE | 0.45 g | BrC1=C(C(=CC=C1)SC(F)(F)F)F | C7H3BrF4S
